US09415037B2
N-(5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-acetamide
To a solution of the 5-bromo-2-amino-triazolopyridine (1 eq.) in dry CH3CN at 5° C. is added Et3N (2.5 eq.) followed by acetyl chloride (2.5 eq.). The reaction mixture is then allowed to warm to ambient temperature and stirred until all starting material is consumed. If required, further Et3N (1 eq.) and acid chloride (1 eq.) are added to ensure complete reaction. Following solvent evaporation in vacuo the resultant residue is treated with 7 N methanolic ammonia solution and stirred at ambient temp. (for 16 h) to hydrolyse any bis-acylated product. Product isolation is made by removal of volatiles in vacuo followed by addition of water and extraction with ethyl acetate. The organic phase is then dried over MgSO4, evaporated in vacuo. The compound may be used without further purification.

reactant | 5-bromo-2-amino-triazolopyridine | 1 eq. | BrC1=NC=2C(C=C1)=NN(N2)N | C5H4BrN5
reactant | Et3N | 2.5 eq. | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 2.5 eq. | C(C)(=O)Cl | C2H3ClO
reactant | Et3N | 1 eq. | CCN(CC)CC | C6H15N
reactant | CH3CN | CC#N | C2H3N
product | N-(5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-acetamide | BrC1=CC=CC=2N1N=C(N2)NC(C)=O | C8H7BrN4O
